US04496735
A mixture of 5 g of 4-(4-pyridylthio)benzaldehyde hydrochloride, 4 g of sodium propionate and 50 ml of propionic anhydride was stirred for 5 hours at a temperature of 150° to 155° C. and concentrated under reduced pressure. Water was added to the mixture which was then heated to precipitate crystals. The resulting crystals were separated by filtration, washed with water and converted into the corresponding hydrochloride by treatment with methanolic hydrogen chloride. The resulting hydrochloride was recrystallized from a mixture of methanol and diethyl ether to obtain 3.4 g (56% yield) of 2-methyl-3-[4-(4-pyridylthio)phenyl]propenoic acid hydrochloride as colorless needles having a melting point of 213°-218° C.

reactant | 4-(4-pyridylthio)benzaldehyde hydrochloride | 5 g | Cl.N1=CC=C(C=C1)SC1=CC=C(C=O)C=C1
reactant | sodium propionate | 4 g | C(CC)(=O)[O-].[Na+]
solvent | propionic anhydride | 50 ml | C(CC)(=O)OC(CC)=O | C6H10O3
product | 2-methyl-3-[4-(4-pyridylthio)phenyl]propenoic acid hydrochloride | 3.4 g, 56% yield | Cl.CC(C(=O)O)=CC1=CC=C(C=C1)SC1=CC=NC=C1 | InChI=1S/C15H13NO2S.ClH/c1-11(15(17)18)10-12-2-4-13(5-3-12)19-14-6-8-16-9-7-14;/h2-10H,1H3,(H,17,18);1H
